US07645776B2
(R)-1-(2-{3-[4-(Morpholine-4-carbonyl)-phenyl]-[1,2,4]oxadiazol-5-yl}-piperidin-1-yl)-2-phenoxy-ethanone
0.07 mmol of (R)-4-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzoic acid were treated with 1 eq. of TBTU/DIPEA in 1 ml DMF for 10 min and 2 eq. of Morpholine added. Ther reaction is stirred overnight at room temperature and the product isolated via preperative HPLC.

reactant | (R)-4-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzoic acid | 0.07 mmol | O(C1=CC=CC=C1)CC(=O)N1[C@H](CCCC1)C1=NC(=NO1)C1=CC=C(C(=O)O)C=C1 | C22H21N3O5
reactant | TBTU DIPEA | 1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F.CCN(C(C)C)C(C)C
reactant | Morpholine | 2 eq. | N1CCOCC1 | C4H9NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (R)-1-(2-{3-[4-(Morpholine-4-carbonyl)-phenyl]-[1,2,4]oxadiazol-5-yl}-piperidin-1-yl)-2-phenoxy-ethanone | N1(CCOCC1)C(=O)C1=CC=C(C=C1)C1=NOC(=N1)[C@@H]1N(CCCC1)C(COC1=CC=CC=C1)=O | C26H28N4O5
